US07592466B2
N-benzyl-N′-{(3R)-1-[(6-methylpyridin-3-yl)carbonyl]pyrrolidin-3-yl}urea
Phoxime resin (Aldrich Chemical Co.) (0.077 g, 0.14 mmol) was added to a glass reaction vessel and treated with diisopropylethylamine (0.016 g, 0.12 mmol, in 0.75 mL of methylene chloride) and (3R)-1-[(6-methylpyridin-3-yl)carbonyl]pyrrolidin-3-amine (0.013 g, 0.06 mmol, in 1.3 mL of methylene chloride). The mixture was shaken for 18 hours at room temperature to afford a resin-bound oximecarbamate intermediate that was washed with methylene chloride (3 mL). Benzylamine (0.14 mmol, in 0.6 mL of toluene) and diisopropylethylamine (0.14 mmol, in 0.75 mL of toluene) were added to the resin which was then heated to 80° C. and shaken for 18 hours. The reaction mixture was filtered and the filtrate was treated with PS-isocyanate resin (Argonaut Technologies, 0.148 g, 0.18 mmol) for 4 hours at room temperature to remove unreacted benzylamine. The product was separated from the resin by filtration and purified by HPLC as described above.

reactant | Phoxime | 0.14 mmol, 0.077 g | CCOP(=S)(OCC)O/N=C(\C#N)/C1=CC=CC=C1 | C12H15N2O3PS
reactant | diisopropylethylamine | 0.12 mmol, 0.75 mL, 0.016 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (3R)-1-[(6-methylpyridin-3-yl)carbonyl]pyrrolidin-3-amine | 0.06 mmol, 1.3 mL, 0.013 g | CC1=CC=C(C=N1)C(=O)N1C[C@@H](CC1)N | C11H15N3O
reactant | Benzylamine | 0.14 mmol, 0.6 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | diisopropylethylamine | 0.14 mmol, 0.75 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isocyanate | 0.18 mmol, 0.148 g | [N-]=C=O
product | N-benzyl-N′-{(3R)-1-[(6-methylpyridin-3-yl)carbonyl]pyrrolidin-3-yl}urea | C(C1=CC=CC=C1)NC(=O)N[C@H]1CN(CC1)C(=O)C=1C=NC(=CC1)C | C19H22N4O2
